US05541195
(2R*,4S*)-2-benzyl-1-(4-chlorobenzoyl)-N-(4-quinolylmethyl)-4-piperidinamine.
200 mg (0.467 mmol) of (2R*,4S*)-2-benzyl-N-(4-quinolylmethyl)-N-trifluoroacetyl-4-piperidinamine are reacted in analogy to Example 4a with 88 mg (0.560 mmol) of 4-chlorobenzoic acid, 143 mg (0.561 mmol) bis(2-oxo-3-oxazolidinyl)phosphinic chloride and 144 μl (1.03 mmol) of triethylamine. The title compound (210 mg, 80%) is obtained as white foam. TLC: methylene chloride/methanol/conc. ammonia (1000:50:1) Rf =0.44, FD-MS: M+ =565, 567.

reactant | (2R*,4S*)-2-benzyl-N-(4-quinolylmethyl)-N-trifluoroacetyl-4-piperidinamine | 0.467 mmol, 200 mg | C(C1=CC=CC=C1)[C@H]1NCC[C@@H](C1)N(C(C(F)(F)F)=O)CC1=CC=NC2=CC=CC=C12 | C24H24F3N3O
reactant | 4-chlorobenzoic acid | 0.560 mmol, 88 mg | ClC1=CC=C(C(=O)O)C=C1 | C7H5ClO2
reactant | bis(2-oxo-3-oxazolidinyl)phosphinic chloride | 0.561 mmol, 143 mg | O=C1OCCN1P(=O)(N1C(OCC1)=O)Cl | C6H8ClN2O5P
reactant | triethylamine | 1.03 mmol, 144 μl | C(C)N(CC)CC | C6H15N
product | (2R*,4S*)-2-benzyl-1-(4-chlorobenzoyl)-N-(4-quinolylmethyl)-4-piperidinamine | 210 mg, 80% | C(C1=CC=CC=C1)[C@H]1N(CC[C@@H](C1)NCC1=CC=NC2=CC=CC=C12)C(C1=CC=C(C=C1)Cl)=O | C29H28ClN3O
